US07101885B2
C. 1-(4-Bromo-phenyl)-3-[2-(4-methyl-piperazin-1-yl)-pyridin-3-yloxy]-pyrrolidin-2-one
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 1.15 g (2.79 mmol) of 1-(4-bromo-phenyl)-3-(2-bromo-pyridin-3-yloxy)-pyrrolidin-2-one, 1.6 mL (13.96 mmol) 1-methylpiperazine, 0.418 g (2.79 mmol) sodium iodide, and 20 mL dioxane. The reaction was refluxed 5 days, cooled, taken up in ethyl acetate, washed with water, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using methanol/ethyl acetate to afford the desired product in 35% yield as a foam, which was converted to the hydrochloride salt, mp 72–82° C.

reactant | 1-(4-bromo-phenyl)-3-(2-bromo-pyridin-3-yloxy)-pyrrolidin-2-one | 2.79 mmol, 1.15 g | BrC1=CC=C(C=C1)N1C(C(CC1)OC=1C(=NC=CC1)Br)=O | C15H12Br2N2O2
reactant | 1-methylpiperazine | 13.96 mmol, 1.6 mL | CN1CCNCC1 | C5H12N2
reactant | sodium iodide | 2.79 mmol, 0.418 g | [I-].[Na+]
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Bromo-phenyl)-3-[2-(4-methyl-piperazin-1-yl)-pyridin-3-yloxy]-pyrrolidin-2-one | 35% yield | BrC1=CC=C(C=C1)N1C(C(CC1)OC=1C(=NC=CC1)N1CCN(CC1)C)=O | C20H23BrN4O2
